US09227973B2
Step F: (6S)-5′-Fluoro-2′-oxo-1′,2′,5,7-tetrahydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridine]-3-carboxylic acid
To a solution of ethyl (6S)-5′-fluoro-2′-oxo-1′,2′,5,7-tetrahydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridine]-3-carboxylate (200 mg, 0.611 mmol) in THF (4 mL) and water (1 mL) was added 1 N lithium hydroxide (0.733 mL, 0.733 mmol) and the resulting mixture was stirred at ambient temperature for 18 h. The reaction mixture was acidified to pH 4 by addition of 1 N hydrochloric acid and concentrated to dryness in vacuo to give the title compound. MS: m/z=300.2 (M+1). 1H NMR (500 MHz, CD3OD) δ 9.21 (s, 1H), 8.90 (s, 1H), 8.07 (m, 1H), 7.78 (dd, 1H, J=7.8, 2.7 Hz), 3.87-3.78 (m, 2H), 3.72 (d, 1H, J=17.3 Hz), 3.61 (d, 1H, J=17.6 Hz).

reactant | ethyl (6S)-5′-fluoro-2′-oxo-1′,2′,5,7-tetrahydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridine]-3-carboxylate | 0.611 mmol, 200 mg | FC=1C=C2C(=NC1)NC([C@]21CC=2C(=NC=C(C2)C(=O)OCC)C1)=O | C17H14FN3O3
reactant | lithium hydroxide | 0.733 mmol, 1 N, 0.733 mL | [OH-].[Li+]
reactant | hydrochloric acid | 1 N | Cl | ClH
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | water | 1 mL | O | H2O
product | (6S)-5′-Fluoro-2′-oxo-1′,2′,5,7-tetrahydrospiro[cyclopenta[b]pyridine-6,3′-pyrrolo[2,3-b]pyridine]-3-carboxylic acid | FC=1C=C2C(=NC1)NC([C@]21CC=2C(=NC=C(C2)C(=O)O)C1)=O | C15H10FN3O3
